US09216999B2
5-Bromo-N-cyclohexyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine
5-Bromo-4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine (150 mg, 0.415 mmol) and cyclohexylamine (1 mL, 9 mmol) in ethylene glycol (1 mL) were stirred at 200° C. for 2 hour under microwave irradiation. The reaction mixture was allowed to cool to room temperature and, after addition of saturated aqueous sodium chloride, extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1 (v/v)) to give the title compound as an orange oil (141 mg, yield 80%).

reactant | 5-Bromo-4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 0.415 mmol, 150 mg | BrC=1C(=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)Cl | C13H18BrClN2OSi
reactant | cyclohexylamine | 9 mmol, 1 mL | C1(CCCCC1)N | C6H13N
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethylene glycol | 1 mL | C(CO)O | C2H6O2
product | 5-Bromo-N-cyclohexyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine | 141 mg, yield 80% | BrC1=C(C2=C(N=C1)N(C=C2)COCC[Si](C)(C)C)NC2CCCCC2 | C19H30BrN3OSi
